US04772600
2-(4-Chloro-2-pyridinyl)-3-[2-(4-methyl-1-piperazinyl)-2-oxoethyl]-3H-imidazo[4,5-b]pyridine
A solution of ethyl chloroformate (0.66 g, 0.0061 mole) in 20 ml of methylene chloride was added slowly to a solution of 2-(4-chloro-2-pyridinyl)-3H-imidazo[4,5-b]pyridine acetic acid (1.75 g, 0.006 mole) and triethylamine (0.68 g, 0.0067 mole) in 75 ml of methylene chloride. After the solution was allowed to stir at room temperature for 2 hrs, a solution of N-methylpiperazine (0.61 g, 0.0061 mole) in methylene chloride was added slowly at room temperature and allowed to stir overnight. The reaction mixture was filtered and the filtrate was evaporated to dryness. The residue was partitioned between dilute hydrochloric acid and diethyl ether. The aqueous layer was separated and extracted with diethyl ether (2x) and methylene chloride (3x). The aqueous layer was neutralized (pH 7) and refrigerated. The small amount of precipitate was removed by filtration. The aqueous filtrate was basified and extracted with methylene chloride (3x). The methylene chloride extracts were combined and evaporated to a gum. The gummy residue was purified by alumina column chromatography (Brockman activity 1, 80-200 mesh, 40 g) by elution with 20% acetone/80% benzene. The appropriate fractions (TLC) were combined and evaporated. The residue was crystallized from acetone/petroleum ether (bp 50°-110° C.). The crystalline solid was collected, washed with petroleum ether and isopropyl ether, and dried under high vacuum at room temperature to give 0.54 g (24%) of title compound, mp 174°-75° C.

reactant | ethyl chloroformate | 0.0061 mole, 0.66 g | ClC(=O)OCC | C3H5ClO2
reactant | 2-(4-chloro-2-pyridinyl)-3H-imidazo[4,5-b]pyridine acetic acid | 0.006 mole, 1.75 g | ClC1=CC(=NC=C1)C1(NC=2C(=NC=CC2)N1)CC(=O)O | C13H11ClN4O2
reactant | triethylamine | 0.0067 mole, 0.68 g | C(C)N(CC)CC | C6H15N
reactant | N-methylpiperazine | 0.0061 mole, 0.61 g | CN1CCNCC1 | C5H12N2
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 75 ml | C(Cl)Cl | CH2Cl2
product | 2-(4-Chloro-2-pyridinyl)-3-[2-(4-methyl-1-piperazinyl)-2-oxoethyl]-3H-imidazo[4,5-b]pyridine | 0.54 g, 24% | ClC1=CC(=NC=C1)C1=NC=2C(=NC=CC2)N1CC(=O)N1CCN(CC1)C | C18H19ClN6O
